US07816395B2
c) 2-Chloro-4-{[(3S)-1-(1-methylethyl)-5-oxo-3-pyrrolidinyl]amino}benzonitrile
The crude (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(1-methylethyl)amino]butanoic acid hydrochloride was dissolved in MeCN (20 mL) and treated with HMDS (4 mL) and the reaction was stirred at 60° C. for 15 h. After cooled down, the reaction was diluted with H2O and extracted with Et2O (2×). The combined organic extracts were washed with H2O (2×), dried over Na2SO4, filtered, concentrated, and purified by silica gel chromatography with 25% EtOAC in hexane grading to 100% EtOAc in hexane to yield the titled product (0.13 g, 49%). LC-MS (ES) m/e 277.9 (M+H)+.

reactant | (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-[(1-methylethyl)amino]butanoic acid hydrochloride | Cl.ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)O)CNC(C)C
reactant | HMDS | 4 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
solvent | MeCN | 20 mL | CC#N | C2H3N
solvent | H2O | O | H2O
product | 2-Chloro-4-{[(3S)-1-(1-methylethyl)-5-oxo-3-pyrrolidinyl]amino}benzonitrile | 0.13 g, 49% | ClC1=C(C#N)C=CC(=C1)N[C@@H]1CN(C(C1)=O)C(C)C | C14H16ClN3O
